US06953790B2
Step A. 1-(2-Methoxyethyl)-6-phenylazepan-2-one
Sodium hydride (60% dispersion in mineral oil; 0.32 g, 8.03 mmol) was added to a solution of 6-phenylazepan-2-one (0.76 g, 4.02 mmol) in N,N-dimethylformamide (15 mL) at 0° C., followed by the addition of 2-bromoethyl methyl ether (0.837 g, 6.03 mmol), and the mixture was allowed to warm to ambient temperature. After 21 h, water was added and the mixture was extracted with ethyl acetate (3×). The combined organic extracts were washed with water (3×), saturated brine, dried over sodium sulfate, filtered and concentrated. MS 248 (M+1).

reactant | Sodium hydride | 8.03 mmol, 0.32 g | [H-].[Na+]
reactant | 6-phenylazepan-2-one | 4.02 mmol, 0.76 g | C1(=CC=CC=C1)C1CCCC(NC1)=O | C12H15NO
reactant | 2-bromoethyl methyl ether | 6.03 mmol, 0.837 g | COCCBr | C3H7BrO
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | 1-(2-Methoxyethyl)-6-phenylazepan-2-one | COCCN1C(CCCC(C1)C1=CC=CC=C1)=O | C15H21NO2
